US06777409B2
4-(5-Fluoro-2-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleric acid
2.4 g of 4-(5-fluoro-2-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleric acid-ethyl ester is dissolved in 30 ml of ethanol and purified with 60 ml of 1 M sodium hydroxide solution. After 2 days at room temperature, it is concentrated by evaporation, the residue is dissolved in water, acidified at 0° C. and extracted with ethyl acetate. The ethyl acetate phase is washed neutral with water, dried (Na2SO4) and concentrated by evaporation. After crystallization from diisopropyl ether, 4-(5-fluoro-2-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleric acid with a flash point of 130-131° C. is obtained.

reactant | 4-(5-fluoro-2-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleric acid-ethyl ester | 2.4 g | C(C)OC(C(CC(C)(C)C1=C(C=CC(=C1)F)[N+](=O)[O-])(C(F)(F)F)O)=O | C15H17F4NO5
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-(5-Fluoro-2-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleric acid | FC=1C=CC(=C(C1)C(CC(C(=O)O)(C(F)(F)F)O)(C)C)[N+](=O)[O-] | C13H13F4NO5
